US07897626B2
a) Preparation of intermediate III.2 N-[2-(Aminocarbonyl)phenyl]-2-bromo-4-thiazolecarboxamide
2-Bromo-4-thiazolecarboxylic acid (1 g), HATU (2.01 g) and 2-aminobenzamide (0.65 g) are introduced into N,N-dimethylformamide (DMF) (20 ml). The mixture is cooled with an ice bath, and N,N-diisopropylethylamine (0.90 ml) is added. The reaction mixture is stirred at room temperature for 6 days, poured into ice-water and allowed to thaw with stirring, and the precipitated solid is filtered off with suction, washed twice with water, twice with diethyl ether and dried in vacuo. Intermediate III.2 is obtained as a solid (1.4 g).

reactant | 2-Bromo-4-thiazolecarboxylic acid | 1 g | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | HATU | 2.01 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminobenzamide | 0.65 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | N,N-diisopropylethylamine | 0.90 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[2-(Aminocarbonyl)phenyl]-2-bromo-4-thiazolecarboxamide | 1.4 g | NC(=O)C1=C(C=CC=C1)NC(=O)C=1N=C(SC1)Br | C11H8BrN3O2S
